US07446225B2
h) N-[5-methanesulfonyl-4-(4-methanesulfonyl-3-pentafluorosulfanylphenoxy)-2-methylbenzoyl]guanidine
546 mg of guanidinium chloride and 535 mg of KOtBu were stirred in 20 ml of anhydrous DMF at RT for 30 minutes. Then 500 mg of methyl 5-methanesulfonyl-4-(4-methanesulfonyl-3-pentafluorosulfanylphenoxy)-2-methylbenzoate were added, and the mixture was left to stand at RT for 16 h. The reaction mixture was poured into 20 ml of water, adjusted to pH=8 with aqueous HCl solution and extracted 3 times with 50 ml of EA each time. The combined EA phases were then washed with 20 ml of a 5% aqueous NaHCO3 solution and dried over MgSO4, and the solvent was removed in vacuo. 420 mg of an amorphous solid were obtained.

reactant | guanidinium chloride | 546 mg | [Cl-].NC(=[NH2+])N
reactant | KOtBu | 535 mg | CC(C)(C)[O-].[K+]
reactant | methyl 5-methanesulfonyl-4-(4-methanesulfonyl-3-pentafluorosulfanylphenoxy)-2-methylbenzoate | 500 mg | CS(=O)(=O)C=1C(=CC(=C(C(=O)OC)C1)C)OC1=CC(=C(C=C1)S(=O)(=O)C)S(F)(F)(F)(F)F | C17H17F5O7S3
reactant | HCl | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | N-[5-methanesulfonyl-4-(4-methanesulfonyl-3-pentafluorosulfanylphenoxy)-2-methylbenzoyl]guanidine | 420 mg | CS(=O)(=O)C=1C(=CC(=C(C(=O)NC(=N)N)C1)C)OC1=CC(=C(C=C1)S(=O)(=O)C)S(F)(F)(F)(F)F | C17H18F5N3O6S3
